US08975396B2
In a 250 ml flask with thermometer, reflux condenser, stirrer and under nitrogen was added 8 g oxcarbazepine, 60 ml of ethyl acetate, 18 ml tetramethylammonium hydroxide (25% solution in water), 2 ml formic acid and 5 ml water. 21 mg RuCl [(S,S)-Ts-DPEN](p-cymene) (SigmaAldrich 703915) was dissolved in 5 ml dimethylformamide and added to the reaction. The reaction was heated in an oil bath to reflux. The pH was checked approximately every 30 to 60 minutes and formic acid added as required to about pH 5. In this way the pH was maintained between 5 and 9. After 7 hours the conversion was 80% and after overnight reaction without further formic acid addition a conversion (HPLC area % at 210 nm) of 96% was obtained with a product ee of 97.1% of (S)-(+)-10-hydroxy-10,11-dihydro-5H-dibenz[b,f]azepine-5-carboxamide (pH 8.5). The reaction was cooled on ice for 4 hours with stirring, filtered and washed 2 times with 20 ml methyl tert-butyl ether (MTBE) to yield 7.5 g alcohol after drying with a purity of 99,3% (HPLC ala %).

reactant | oxcarbazepine | 8 g | C=1C=CC2=C(C1)CC(=O)C=3C=CC=CC3N2C(=O)N | C15H12N2O2
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | tetramethylammonium hydroxide | 18 ml | [OH-].C[N+](C)(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | formic acid | C(=O)O | CH2O2
solvent | water | 5 ml | O | H2O
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | (S)-(+)-10-hydroxy-10,11-dihydro-5H-dibenz[b,f]azepine-5-carboxamide | pH 8.5 | O[C@H]1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H14N2O2
